US05489592
(E)-1-Bromo-3-(3-bromo-1-propenyl)-5-fluorobenzene
A solution of 4.2 g (0.0182 mol) of (E)-3-(3-bromo-5-fluorophenyl)-2-propen-1-ol in 65 ml of anhydrous ether is cooled to 0° C. under a nitrogen atmosphere. 3.3 g (0.0121 mol) of phosphorus tribromide are added dropwise and then the mixture is stirred for 1 h at 0° C. and left to return to room temperature overnight. The mixture is poured into water and extraction with ether, washing with water, drying over sodium sulphate, filtration and concentration under vacuum are carried out.

reactant | (E)-3-(3-bromo-5-fluorophenyl)-2-propen-1-ol | 0.0182 mol, 4.2 g | BrC=1C=C(C=C(C1)F)/C=C/CO | C9H8BrFO
reactant | phosphorus tribromide | 0.0121 mol, 3.3 g | P(Br)(Br)Br | Br3P
reactant | water | O | H2O
solvent | ether | 65 ml | CCOCC | C4H10O
product | (E)-1-Bromo-3-(3-bromo-1-propenyl)-5-fluorobenzene | BrC1=CC(=CC(=C1)F)\C=C\CBr | C9H7Br2F
